US09079853B2
1-ethyl-3-hydroxy-3-((3-methoxypyridin-2-yl)methyl)-5-methylindolin-2-one
To a flame dried sealed tube cooled under argon was added the 1-ethyl-5-methylindoline-2,3-dione (0.03 grams, 0.15 mmol) and 3-methoxy-2-methyl-pyridine (0.072 grams, 0.59 mmol, purchased from Fisher Scientific) and 0.5 mL of 1,4 dioxane. After the addition of trifluoro acetic acid (2 μL) the vessel was sealed and heated to 110° C. for 48 hours. The reaction was then concentrated. 1H-NMR δ 8.21 (s, 1H), 7.35 (bs, OH), 7.26 (m, 1H), 7.20 (d, 1H), 7.09 (d, 1H), 6.90 (s, 1H), 6.75 (d, 1H), 3.78 (s, 3H), 3.77 (m, 2H), 3.34 (d, 1H), 3.18 (d, 1H), 2.27 (s, 3H), 1.28 (t, 3H). Calculated mass for C18H20N2O3, 312.15. Observed 313.1 (M+1).

reactant | 1-ethyl-5-methylindoline-2,3-dione | 0.15 mmol, 0.03 grams | C(C)N1C(C(C2=CC(=CC=C12)C)=O)=O | C11H11NO2
reactant | 3-methoxy-2-methyl-pyridine | 0.59 mmol, 0.072 grams | COC=1C(=NC=CC1)C | C7H9NO
reactant | trifluoro acetic acid | 2 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,4 dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 1-ethyl-3-hydroxy-3-((3-methoxypyridin-2-yl)methyl)-5-methylindolin-2-one | C(C)N1C(C(C2=CC(=CC=C12)C)(CC1=NC=CC=C1OC)O)=O | C18H20N2O3
